US05861421
To 4-(3-cyclopentyloxy-4-methoxyphenyl)-1,1-(ethylenedioxy)-4-(3-nitrophenylethynyl)cyclohexane (0.17 g, 0.35 mmol) in methanol (1 mL), acetic acid (1.2 mL) and water (1.2 mL) under an argon atmosphere was added titanium trichloride (0.3 g, 2 mmol). After stirring for 1.5 h at room temperature, titanium trichloride (0.3g, 2 mmol) and water (1.2 mL) were added, and the mixture was stirred for 0.5 h at room temperature and for 0.5 h at 45°-50°C., then was cooled to room temperature. Water (1.2 mL) and ammonium hydroxide (2.5 mL) were added. After stiinng an additional 1 h, methanol (17.5 mL), 5% sodium carbonate (17.5 mL) and dichloromethane (35 mL) were added, and stirring was continued for 2 h. The suspension was filtered through Celite®, was washed well with dichloromethane and the extract was evaporated. The residue was diluted with dichloromethane, the organic layer was washed with 5:95 ammonium hydroxide:water, was dried (potassium carbonate) and was evaporated. Purification by flash chromatography, eluting with 3:7 ethyl acetate:hexanes, provided a mixture of 4-(3-cyclopentyloxy-4-methoxyphenyl)-4-(3-anminophenylethynyl)-cyclohexan-1-one and 4-(3-cyclopentyloxy-4-methoxyphenyl)-1,1-(ethylenedioxy)-4-(3-aminophenylethynyl)cyclohexane (0.07 g). This mixture and a spatula-tip of pyridinium p-toluenesulfonate in acetone (4 mL) and water (1 mL) was refluxed for 3 days, then was evaporated. Water was added, the mixture was extracted three times with dichloromethane, the extract was dried (magnesium sulfate) and was evaporated. Purification by flash chromatography, eluting with 35:65 ethyl acetate:hexanes provided 4-(3-cyclopentyloxy-4-methoxyphenyl)-4-(3-aminophenylethynyl)cyclohexan-1-one as a colorless oil. 1H-NMR (400 MHz, CDCl3) δ 7.22 (d, J=2.2 Hz, 1H), 7.14 (m, 2H), 6.87 (m, 2H), 6.82 (d, J=2.8 Hz, 1H), 6.66 (dd, J=9.0, 2.4 Hz, 1H), 4.81 m, 1H), 3.85 (s, 3H), 3.7 (br, 2H), 3.04 (dt, J=14.3, 6.0 Hz, 2H), 2.47 (br d, J=14.6 Hz, 2H), 2.2-2.3 (m, 4), 1.8-2.0 (m, 6H), 1.61 (m, 2H).

reactant | 4-(3-cyclopentyloxy-4-methoxyphenyl)-1,1-(ethylenedioxy)-4-(3-nitrophenylethynyl)cyclohexane | 0.35 mmol, 0.17 g | C1(CCCC1)OC=1C=C(C=CC1OC)C1(CCC2(CC1)OCCO2)C#CC2=CC(=CC=C2)[N+](=O)[O-] | C28H31NO6
reactant | ammonium hydroxide | 2.5 mL | [OH-].[NH4+]
reactant | sodium carbonate | 17.5 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-(3-cyclopentyloxy-4-methoxyphenyl)-1,1-(ethylenedioxy)-4-(3-aminophenylethynyl)cyclohexane | 0.07 g | C1(CCCC1)OC=1C=C(C=CC1OC)C1(CCC2(CC1)OCCO2)C#CC2=CC(=CC=C2)N | C28H33NO4
reactant | pyridinium p-toluenesulfonate | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | methanol | 1 mL | CO | CH4O
solvent | acetic acid | 1.2 mL | C(C)(=O)O | C2H4O2
solvent | water | 1.2 mL | O | H2O
solvent | acetone | 4 mL | CC(=O)C | C3H6O
solvent | water | 1 mL | O | H2O
catalyst | titanium trichloride | 2 mmol, 0.3 g | [Cl-].[Cl-].[Cl-].[Ti+3]
catalyst | titanium trichloride | 2 mmol, 0.3g | [Cl-].[Cl-].[Cl-].[Ti+3]
solvent | methanol | 17.5 mL | CO | CH4O
solvent | Water | 1.2 mL | O | H2O
solvent | water | 1.2 mL | O | H2O
solvent | dichloromethane | 35 mL | ClCCl | CH2Cl2
product | 4-(3-cyclopentyloxy-4-methoxyphenyl)-4-(3-aminophenylethynyl)cyclohexan-1-one | C1(CCCC1)OC=1C=C(C=CC1OC)C1(CCC(CC1)=O)C#CC1=CC(=CC=C1)N | C26H29NO3
